US05677380
Into a 1 l four-necked flask, 25.0 g of glycidyl methacrylate, 25.0 g of methyl methacrylate, 10.0 g of 2,2'-azobis(4-methoxy-2,4-dimethylavleronitrile), 5.0 g of n-dodecylmercaptan and 500 ml of dioxane were charged, dissolved and stirred. Then, stirring was continued under a nitrogen stream at 70° C. for 4 hours. The reaction solution was put into methanol to precipitate the resin. Purification with tetrahydrofuran/methanol was repeated, and then vacuum drying was conducted at 40° C. to obtain a resin powder. The obtained amount was 40.0 g. The weight average molecular weight as measured by GPC was 16,000 as calculated as polystyrene; the glass transition temperature (Tg) was 63° C.; and the epoxy equivalent was 210. 25 g of a glycidyl methacrylate/methyl methacrylate copolymer thus obtained, 6.5 g of an epoxy-type heat-curing agent (a polyfunctional glycidyl ether, EX-611, manufactured by Nagase Chemicals Ltd.), 1.6 g of a curing catalyst (a sulfonium salt type thermally acid-generating agent), SI-190, manufactured by Shanshin Chemical Industry Co., Ltd.) and 77 g of diethylene glycol dimethyl ether were mixed and dissolved, followed by filtration with a 0.2 μm filter to obtain a planarizing material solution.

reactant | glycidyl methacrylate | 25.0 g | C(C(=C)C)(=O)OCC1CO1 | C7H10O3
reactant | methyl methacrylate | 25.0 g | C(C(=C)C)(=O)OC | C5H8O2
reactant | n-dodecylmercaptan | 5.0 g | C(CCCCCCCCCCC)S | C12H26S
reactant | dioxane | 500 ml | O1CCOCC1 | C4H8O2
solvent | methanol | CO | CH4O
product | glycidyl methacrylate methyl methacrylate | 25 g | C(C(=C)C)(=O)OCC1CO1.C(C(=C)C)(=O)OC | InChI=1S/C7H10O3.C5H8O2/c1-5(2)7(8)10-4-6-3-9-6;1-4(2)5(6)7-3/h6H,1,3-4H2,2H3;1H2,2-3H3
